US04743609
Preparation of 1-methyl-2-[(5-methyl-4-piperidino-2-pyridyl)methylthio]indole
2-[(5-Methyl-4-piperidino-2-pyridyl)methylthio]indole (80 mg, 0.24 mmol) was added to a suspension of potassium hydroxide (finely ground) (62 mg) in dimethylsulfoxide (0.5 ml), and the mixture was stirred for 30 minutes. Methyl iodide (34 mg, 0.24 mmol) was then added to the mixture and the stirring was continued at room temperature for further 30 minutes. Then, water (20 ml) was added to the reaction solution and the mixture was extracted with ethyl ether. The ether layer so separated was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by a silica gel column chromatography (eluent: chloroform), yielding the titled compound (75 mg) as an oil. Yield: 90%.

reactant | 2-[(5-Methyl-4-piperidino-2-pyridyl)methylthio]indole | 0.24 mmol, 80 mg | CC=1C(=CC(=NC1)CSC=1NC2=CC=CC=C2C1)N1CCCCC1 | C20H23N3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | Methyl iodide | 0.24 mmol, 34 mg | CI | CH3I
reactant | water | 20 ml | O | H2O
solvent | dimethylsulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | 1-methyl-2-[(5-methyl-4-piperidino-2-pyridyl)methylthio]indole | 75 mg, Yield: 90% | CN1C(=CC2=CC=CC=C12)SCC1=NC=C(C(=C1)N1CCCCC1)C | C21H25N3S
